US07897601B2
2,4-dichlorobenzaldehyde (26.26 g, 0.15 mol) was dissolved in toluene (200 mL), and then KOH (8.4 g, 1 eq) in water (183 mL) was added followed by BnEt3NCl. The mixture was cooled to 0° C. and n-propanal (26.15 g, 0.45 mol, 3 eq) in toluene (50 mL) was added dropwise. The mixture was allowed to warm to room temperature and stirred overnight. The organic layer was separated and washed successively with water, brine, dried (MgSO4), and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (0-1-2-3% EtOAc in hexanes) to give 17.56 g of 3-(2,4-dichlorophenyl)-2-methylpropenal.

reactant | 2,4-dichlorobenzaldehyde | 0.15 mol, 26.26 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
reactant | KOH | 8.4 g, 1 eq | [OH-].[K+]
reactant | n-propanal | 0.45 mol, 26.15 g, 3 eq | C(CC)=O | C3H6O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 183 mL | O | H2O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2,4-dichlorophenyl)-2-methylpropenal | 17.56 g | ClC1=C(C=CC(=C1)Cl)C=C(C=O)C | C10H8Cl2O
